US05541229
4'-[(2-n-Butyl-4-nitrobenzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-n-butyl-4-nitrobenzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid/methylene chloride.

reactant | tert.butyl 4'-[(2-n-butyl-4-nitrobenzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC=C2[N+](=O)[O-] | C29H31N3O4
reactant | trifluoroacetic acid methylene chloride | FC(C(=O)O)(F)F.C(Cl)Cl
product | 4'-[(2-n-Butyl-4-nitrobenzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2[N+](=O)[O-] | C25H23N3O4
